datasets/10k__Tet_Int.csv
SMILES Labelled
"[NH:10]([H])C([H])/C(C)=C([H])\C([H])[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C([H])C([H])=C(C)C([H])[NH+:10]1([H]) 10=20;20,21=21"
"[H][O:10]C(CC)C(C)C([H])[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH:10]C(CC)C(C)C(CC)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7 10=20;20,21=21"
"CC1C(O[C:20](N1[H])([O-:10])[O:21]C)[H]>>CC1C(O[C:20](=[O:10])N1[H])[H].[O-:21]C 10=20;20,21=21"
"[OH:21][C:20]1([H])C(C)=C([H])C([H])C([H])[OH+:10]1>>[OH:10]C([H])C([H])/C([H])=C(C)\[C:20]([H])=[OH+:21] 21=20;20,10=10"
"CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CCCCCC)C)[H]>>CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C)[H].[O-:21]CCCCCC 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C([H])[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1[H])O[H])[H])C1=CC=CC=C1>>C(C([O-:21])[H])(C(O[C:20](=[O:10])O[H])[H])C1=CC=CC=C1 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(CC)[S]1)[C:20]1([O:21]C)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(CC)[S][C:20]([O]CC)=[O+:21]C 21=20;20,10=10"
"C[O+:21]=[C:20]2[O][CH](CC)[CH](C)C(C)[O]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21]C)[O][CH](CC)C(C)[CH](C)[O]1 10=20;20,21=21"
"[H][NH+:10](C([H])C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C(C8=CC=CC=C8)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"[O:10]([K])C([H])C(C)C(O)C([H])[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C([H])C(O)C(C)C([H])[O+:10]1([K]) 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C([O-:21])CC)CCCCCC)[H]>>C1=CC=CC=C1N([C:20]1(OC(C([O:21]1)CC)CCCCCC)[O-:10])[H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]C)[O]C(CC)C(C)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O]C(CC)C(C)[O]2.[H][O:10][H] 21=20;20,10=10"
"C[S+:10]([H])[C:20]1([O:21][H])[S][CH](C)C([H])[CH](C)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](C)[CH]([H])C(C)[S]2.C[S:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][H])([O]C8=CC=CC=C8)[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[S:10][H].[H][O+:21]=[C:20]([O]C8=CC=CC=C8)[O]C 21=20;20,10=10"
"CCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CC)C)[O-:10])[H]>>CCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CC)C)[H] 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C([H])[S]1)[C:20]1([O:21][H])[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C([H])[S][C:20]([O]CC)=[O+:21][H] 21=20;20,10=10"
"[CH:20](O)([Br:21])CC>>[CH+:20](O)CC.[Br-:21] 20,21=21"
"CN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)CC)[H]>>CN([C:20]1(OC(C(C([O:21]1)CCCCCC)C)CC)[O-:10])[H] 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([O][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[O][H] 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1[H])([O-:10])[Cl:21])CCCCCC)C>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1[H])CCCCCC)C.[Cl-:21] 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[O][CH](CC)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][O+:10](C(C)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(C8=CC=CC=C8)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)CCCCCC)CC)[H])[O-:10])[H]>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CC)[H])[H] 10=20;20,21=21"
"[H][O+:10](C(C)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[NH][H].[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(C8=CC=CC=C8)[NH][C:20]([NH][H])=[NH+:21]CC 21=20;20,10=10"
"[O:10]([Na])C(C)C(C)C([H])C(O)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(O)C([H])C(C)C(C)[O+:10]1([Na]) 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(CC)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C([H])[CH](CC)[O]1 10=20;20,21=21"
"[O-:21][C:20]1([H])C(C)=C([H])C([H])C(CC)[O+:10]1([Na])>>[O:10]([Na])C(CC)C([H])/C([H])=C(C)\[C:20]([H])=[O:21] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(CC)[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C(C)[CH](CC)[NH]1 10=20;20,21=21"
"[H][S:10]C(C9=CC=CC=C9)C([H])[O][C:20]([O]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C([H])[O]1)[C:20]1([O:21]C)[O]CC 10=20;20,21=21"
"C(C([O-:21])CC)(C(O[C:20](=[O:10])OC)C1=CC=CC=C1)CC>>C1(C(O[C:20]([O-:10])([O:21]C1CC)OC)C1=CC=CC=C1)CC 21=20;20,10=10"
"C[S:10][H].[H][O+:21]=[C:20]([O][H])[O][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]([O:21][H])([O][H])[O][H] 10=20;20,21=21"
"CC[O:10][H].C[O+:21]=[C:20]([O]C)[S][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([O:21]C)([O]C)[S][H] 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(C8=CC=CC=C8)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH]([H])C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
